US07384934B2
(S)-(2-[2-(2-Methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene-10-yl)-piperazin-1-yl]-ethanol
Add 2-iodo-ethanol (0.44 mL, 2.55 mmol) to a slurry of (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene (0.75 g, 1.82 mmol), and powdered potassium carbonate (1.26 g, 9.11 mmol) in absolute ethanol (7.5 mL) and heat to reflux. After an overnight period, cool, add saturated aqueous sodium chloride and ethyl acetate, and add deionized water to dissolve precipitated salt formed during the extraction. Extract aqueous phase with ethyl acetate (2×), and dry (sodium sulfate), filter, and concentrate organics under reduced pressure to an oil (0.564 g). Add absolute ethanol (8 mL), powdered potassium carbonate (0.62 g, 4.50 mmol), followed by 2-iodo-ethanol (0.098 mL, 1.26 mmol), and stir 15.5 hours at reflux. Add additional 2-iodo-ethanol (0.010 mL, 0.13 mmol), and stir at reflux. After 4 hours, cool to ambient temperature and add deionized water and ethyl acetate. Extract separated aqueous phase with ethyl acetate, and combine, dry (sodium sulfate), filter, and concentrate organics under reduced pressure to a residue (0.86 g). Purify the residue by flash chromatography, eluting with a gradient of solutions of 2M ammonia in methanol: ethyl acetate (1%-5% 2M ammonia in methanol in ethyl acetate) to give the title compound (0.213 g, 26%): mass spectrum (APCI, m/e): 456 (M+1); NMR (1H, 300 MHz, DMSO-d6) δ 8.45 (s, 1H), 6.96-6.81 (m, 3H), 6.71 (m, 1H), 4.38 (t, 1H, J=5.4 Hz), 3.54-3.06 (m, 11H), 2.71 (m, 2H), 2.55 (m, 1H), 2.41 (m, 2H), 1.68 (m, 2H).

reactant | 2-iodo-ethanol | 2.55 mmol, 0.44 mL | ICCO | C2H5IO
reactant | (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 1.82 mmol, 0.75 g | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2 | C18H20F3N5OS
reactant | potassium carbonate | 9.11 mmol, 1.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | potassium carbonate | 4.50 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodo-ethanol | 1.26 mmol, 0.098 mL | ICCO | C2H5IO
reactant | 2-iodo-ethanol | 0.13 mmol, 0.010 mL | ICCO | C2H5IO
solvent | ethanol | 7.5 mL | C(C)O | C2H6O
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-[2-(2-Methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene-10-yl)-piperazin-1-yl]-ethanol | 0.213 g, 26% | COCCC1N(CCN(C1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2)CCO | C20H24F3N5O2S
